### PR TITLE
Unifying the variable naming of sequences

### PR DESCRIPTION
**Pull request by stefan-aws**
Currently, we use all sorts of variable names (`s, s', a, b, xs, xx ...`) for sequences. I propose we stick to `xs, ys, zs, ...` in the standard library, where possible. The main reasons for this change are:

- Consistency
- Used in e.g. Ocaml (https://v2.ocaml.org/api/Seq.html) and Haskell (https://hackage.haskell.org/package/containers-0.6.6/docs/Data-Sequence.html)
- In https://github.com/dafny-lang/libraries/pull/66, sequences are mixed with sets. I propose we reserve `s` for sets, as is practise e.g. in OCaml (https://ocaml.org/docs/sets)

I also change some of the existing comments, and add new ones.

By submitting this pull request, I confirm that my contribution is made under the terms of the MIT license.

### CODE REVIEW

File: src/Collections/Sequences/Seq.dfy [hunk 1]
```diff
@@ -80,294 +86,305 @@ module Seq {
...
         if o'.Some? then Some(o'.value + 1) else None()
   }
 
-  /* finds the index of the last occurrence of an element in the sequence */
-  function method {:opaque} LastIndexOf<T(==)>(s: seq<T>, v: T): (i: nat)
-    requires v in s
-    ensures i < |s| && s[i] == v
-    ensures forall j {:trigger s[j]} :: i < j < |s| ==> s[j] != v
+  /* If an element occurs at least once in a sequence, the index of its
+     last occurance is returned. */
```
Comment (MikaelMayer) [inline src/Collections/Sequences/Seq.dfy:281]:
```suggestion
  /* If an element occurs at least once in a sequence, the index of its
     last occurrence is returned. */
```
I let you fix the rest

File: src/Collections/Sequences/Seq.dfy [hunk 2]
```diff
@@ -80,294 +86,305 @@ module Seq {
...
-    else Zip(DropLast(a), DropLast(b)) + [(Last(a), Last(b))]
+    if |xs| == 0 then []
+    else Zip(DropLast(xs), DropLast(ys)) + [(Last(xs), Last(ys))]
   }
 
-  /* if a sequence is unzipped and then zipped, it forms the original sequence */
-  lemma LemmaZipOfUnzip<A,B>(s: seq<(A,B)>)
-    ensures Zip(Unzip(s).0, Unzip(s).1) == s
+  /* Proves that if a sequence is unzipped and then zipped, the original sequence 
+     is recovered. */
```
Comment (MikaelMayer) [inline src/Collections/Sequences/Seq.dfy:385]:
```suggestion
  /* Proves that unzipping and zipping a sequence results in the original sequence */
```
Shorter is better to me, and often the active voice makes it possible.

File: src/Collections/Sequences/Seq.dfy [hunk 3]
```diff
@@ -570,122 +589,130 @@ module Seq {
...
+        Filter(f, [xs[0]]) + Filter(f, xs[1..]) + Filter(f, ys);
+          { assert [(xs + ys)[0]] + xs[1..] + ys == xs + ys; }
+        Filter(f, xs) + Filter(f, ys);
       }
     }
   }
   
-  function method {:opaque} FoldLeft<A,T>(f: (A, T) -> A, init: A, s: seq<T>): A
+  /* Folds a sequence xs to the left, by acting on the initial element init via the 
+     function f. */
```
Comment (MikaelMayer) [inline src/Collections/Sequences/Seq.dfy:682]:
```suggestion
  /* Folds a sequence xs from the left, by repeatedly acting on the accumulator init via the 
     function f. */
```

File: src/Collections/Sequences/Seq.dfy [hunk 4]
```diff
@@ -712,35 +739,38 @@ module Seq {
     }
   }
 
-  function method {:opaque} FoldRight<A,T>(f: (T, A) -> A, s: seq<T>, init: A): A
+  /* Folds a sequence xs to the right, by acting on the initial element init via the
```
Comment (MikaelMayer) [inline src/Collections/Sequences/Seq.dfy:742]:
```suggestion
  /* Folds a sequence xs from the right, by acting on the accumulator init via the 
```

**Review by MikaelMayer — CHANGES_REQUESTED** [review]
Thanks for taking the dust out of these functions !
A few items and I think it's good.

**Review by MikaelMayer — DISMISSED** [review]
Thanks for this useful refactoring and documentation effort !

File: src/Collections/Sequences/Seq.dfy [hunk 5]
```diff
@@ -574,122 +592,130 @@ module {:options "-functionSyntax:4"} Seq {
...
   }
 
-  /* Concatenating two sequences, then folding left is the same as folding the first sequence and using the result as the initial value to fold the second
-  sequence. */
-  lemma {:opaque} LemmaFoldLeftDistributesOverConcat<A,T>(f: (A, T) -> A, init: A, a: seq<T>, b: seq<T>)
-    requires 0 <= |a + b|
-    ensures FoldLeft(f, init, a + b) == FoldLeft(f, FoldLeft(f, init, a), b)
+  /* Proves that folding to the left is additive. That is, concatenating two sequences 
+     and then folding them to the left, is the same as folding to the left the first 
+     sequence and using the result to fold to the left the second sequence. */
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:694]:
```suggestion
  /* Folding to the left is distributive over concatenation. That is, concatenating two sequences 
     and then folding them to the left, is the same as folding to the left the first 
     sequence and using the result to fold to the left the second sequence. */
```

File: src/Collections/Sequences/Seq.dfy [hunk 6]
```diff
@@ -716,35 +742,38 @@ module {:options "-functionSyntax:4"} Seq {
     }
   }
 
-  function {:opaque} FoldRight<A,T>(f: (T, A) -> A, s: seq<T>, init: A): A
+  /* Folds a sequence xs from the right, by acting on the accumulator init via the 
+     function f. */
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:746]:
```suggestion
  /* Folds a sequence xs from the right (the end), by iteratively combining the previous element
  with the result of the fold so far, beginning with init. */
```

File: src/Collections/Sequences/Seq.dfy [hunk 7]
```diff
@@ -716,35 +742,38 @@ module {:options "-functionSyntax:4"} Seq {
...
   }
 
-  /* Concatenating two sequences, then folding right is the same as folding the second sequence and using the result as the initial value to fold the first
-  sequence. */
-  lemma {:opaque} LemmaFoldRightDistributesOverConcat<A,T>(f: (T, A) -> A, init: A, a: seq<T>, b: seq<T>)
-    requires 0 <= |a + b|
-    ensures FoldRight(f, a + b, init) == FoldRight(f, a, FoldRight(f, b, init))
+  /* Proves that folding to the right is (contravariant) additive. That is, concatenating
+     two sequences and then folding them to the right, is the same as folding to the right 
+     the second sequence and using the result to fold to the right the first sequence. */
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:755]:
```suggestion
  /* Folding to the right is (contravariantly) distributive over concatenation. That is, concatenating
     two sequences and then folding them to the right, is the same as folding to the right 
     the second sequence and using the result to fold to the right the first sequence. */
```

File: src/Collections/Sequences/Seq.dfy [hunk 8]
```diff
@@ -574,122 +592,130 @@ module {:options "-functionSyntax:4"} Seq {
...
       }
     }
   }
 
-  /* uses a selection function to select elements from the sequence */
-  function {:opaque} Filter<T>(f: (T ~> bool), s: seq<T>): (result: seq<T>)
-    requires forall i :: 0 <= i < |s| ==> f.requires(s[i])
-    ensures |result| <= |s|
+  /* Returns the subsequence of those elements of a sequence that satisfy a given 
+     predicate. */
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:650]:
```suggestion
  /* Returns the subsequence consisting of those elements of a sequence that satisfy a given 
     predicate. */
```

**Review by davidcok — APPROVED** [review]

File: src/Collections/Sequences/Seq.dfy [hunk 9]
```diff
@@ -381,82 +397,82 @@ module {:options "-functionSyntax:4"} Seq {
...
 
-  /* the greater maximum value of two sequences, a and b, becomes the maximum of the total sequence when 
-  a and b are concatenated */
-  lemma LemmaMaxOfConcat(a: seq<int>, b: seq<int>)
-    requires 0 < |a| && 0 < |b|
-    ensures Max(a+b) >= Max(a)
-    ensures Max(a+b) >= Max(b)
-    ensures forall i {:trigger i in [Max(a + b)]} :: i in a + b ==> Max(a + b) >= i
+  /* Proves that the maximum of the concatenation of two non-empty sequences is 
+     greater or equal than the maxima of its two non-empty subsequences. */
```
[the remark this answers is not in the document]
Comment (stefan-aws) [reply src/Collections/Sequences/Seq.dfy:411]: That seems correct, too, and would imply the result above. Might strengthen to your suggestion in the future.

File: src/Collections/Sequences/Seq.dfy [hunk 10]
```diff
@@ -27,50 +27,56 @@ module {:options "-functionSyntax:4"} Seq {
...
+  function First<T>(xs: seq<T>): T
+    requires |xs| > 0
   {
-    s[0]
+    xs[0]
   }
 
-  function DropFirst<T>(s: seq<T>): seq<T>
-    requires |s| > 0
+  /* Returns the subsequence of a non-empty sequence, obtained by
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:37]:
```suggestion
  /* Returns the subsequence of a non-empty sequence obtained by
```

File: src/Collections/Sequences/Seq.dfy [hunk 11]
```diff
@@ -27,50 +27,56 @@ module {:options "-functionSyntax:4"} Seq {
...
+    requires |xs| > 0;
   {
-    s[|s|-1]
+    xs[|xs|-1]
   }
 
-  /* returns the sequence slice up to but not including the last element */
-  function DropLast<T>(s: seq<T>): seq<T> 
-    requires |s| > 0;
+  /* Returns the subsequence of a non-empty sequence, obtained by
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:52]:
```suggestion
  /* Returns the subsequence of a non-empty sequence obtained by
```

File: src/Collections/Sequences/Seq.dfy [hunk 12]
```diff
@@ -80,298 +86,310 @@ module {:options "-functionSyntax:4"} Seq {
...
+    requires pos < |xs|;
+    ensures xs[..pos] + xs[pos..] == xs;
   {
   }
 
-  /* ensures that the element from a slice is included in the original sequence */
-  lemma LemmaElementFromSlice<T>(s: seq<T>, s':seq<T>, a: int, b: int, pos: nat)
-    requires 0 <= a <= b <= |s|;
-    requires s' == s[a..b];
+  /* Any element in a slice is included in the original sequence. */
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:112]: I would expect this lemma to prove `ys[pos-a] in xs`
Even better would be that pos is an index into ys rather than xs, but that would change the API.
also keeping xs' instead of ys connotes that xs' is derived from xs

File: src/Collections/Sequences/Seq.dfy [hunk 13]
```diff
@@ -80,298 +86,310 @@ module {:options "-functionSyntax:4"} Seq {
...
+        var o' := IndexOfOption(xs[1..], v);
         if o'.Some? then Some(o'.value + 1) else None()
   }
 
-  /* finds the index of the last occurrence of an element in the sequence */
-  function {:opaque} LastIndexOf<T(==)>(s: seq<T>, v: T): (i: nat)
-    requires v in s
-    ensures i < |s| && s[i] == v
-    ensures forall j {:trigger s[j]} :: i < j < |s| ==> s[j] != v
+  /* For an element occurs at least once in a sequence, the index of its
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:286]:
```suggestion
  /* For an element that occurs at least once in a sequence, the index of its
```

File: src/Collections/Sequences/Seq.dfy [hunk 14]
```diff
@@ -80,298 +86,310 @@ module {:options "-functionSyntax:4"} Seq {
...
 
-  /* inserts a certain value into a specified index of the sequence */
-  function {:opaque} Insert<T>(s: seq<T>, a: T, pos: nat): seq<T>
-    requires pos <= |s|
-    ensures |Insert(s, a, pos)| == |s| + 1
-    ensures forall i {:trigger Insert(s, a, pos)[i], s[i]} :: 0 <= i < pos ==> Insert(s, a, pos)[i] == s[i]
-    ensures forall i {:trigger s[i]} :: pos <= i < |s| ==> Insert(s, a, pos)[i+1] == s[i]
-    ensures Insert(s, a, pos)[pos] == a
-    ensures multiset(Insert(s, a, pos)) == multiset(s) + multiset{a}
+  /* Inserts an element at a given position and returns the resulting sequence. */
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:334]:
```suggestion
  /* Inserts an element at a given position and returns the resulting (longer) sequence. */
```

File: src/Collections/Sequences/Seq.dfy [hunk 15]
```diff
@@ -381,82 +399,82 @@ module {:options "-functionSyntax:4"} Seq {
...
       assert false;
     }
   }
 
-  /* the minimum element in any subsequence will not be less than the minimum element in 
-  the full sequence */
-  lemma LemmaSubseqMin(s: seq<int>, from: nat, to: nat)
-    requires from < to <= |s|
-    ensures Min(s[from..to]) >= Min(s)
+  /* The minimum element in a non-empty sequence is less than or equal
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:468]:
```suggestion
  /* The minimum element of a non-empty sequence is less than or equal 
```

File: src/Collections/Sequences/Seq.dfy [hunk 16]
```diff
@@ -574,122 +594,130 @@ module {:options "-functionSyntax:4"} Seq {
...
-    if |s| == 0 then []
-    else [f(s[0])] + Map(f, s[1..])
+    if |xs| == 0 then []
+    else [f(xs[0])] + Map(f, xs[1..])
   }
 
-/* applies a transformation function that returns a result on the sequence */
-  function {:opaque} MapWithResult<T, R, E>(f: (T ~> Result<R,E>), s: seq<T>): (result: Result<seq<R>, E>)
-    requires forall i :: 0 <= i < |s| ==> f.requires(s[i])
+/* Applies a function to every element of a sequence, returning Result value (which is a
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:609]:
```suggestion
/* Applies a function to every element of a sequence, returning a Result value (which is a 
```

File: src/Collections/Sequences/Seq.dfy [hunk 17]
```diff
@@ -574,122 +594,130 @@ module {:options "-functionSyntax:4"} Seq {
...
 
-  /* concatenating two sequences and then applying Map is the same as applying
-  Map on each sequence  seperately and then concatenating the two resulting
-  sequences */
-  lemma {:opaque} LemmaMapDistributesOverConcat<T,R>(f: (T ~> R), a: seq<T>, b: seq<T>)
-    requires forall i {:trigger a[i]}:: 0 <= i < |a| ==> f.requires(a[i])
-    requires forall j {:trigger b[j]}:: 0 <= j < |b| ==> f.requires(b[j])
-    ensures Map(f, a + b) == Map(f, a) + Map(f, b)
+  /* Applying a function to a sequence  is distributive over concatenation. That is, concatenating 
+     two sequences and then applying Map is the same as applying Map on each sequence seperately,
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:629]:
```suggestion
     two sequences and then applying Map is the same as applying Map to each sequence separately, 
```

File: src/Collections/Sequences/Seq.dfy [hunk 18]
```diff
@@ -574,122 +594,130 @@ module {:options "-functionSyntax:4"} Seq {
...
   }
 
-  /* concatenating two sequences and then using "filter" is the same as using "filter" on each sequences
-  seperately and then concatenating their resulting sequences */
-  lemma {:opaque} LemmaFilterDistributesOverConcat<T>(f: (T ~> bool), a: seq<T>, b: seq<T>)
-    requires forall i {:trigger a[i]}:: 0 <= i < |a| ==> f.requires(a[i])
-    requires forall j {:trigger b[j]}:: 0 <= j < |b| ==> f.requires(b[j])
-    ensures Filter(f, a + b) == Filter(f, a) + Filter(f, b)
+  /* Filtering a sequence is distributive over concatenation. That is, concatenating two sequences 
+     and then using "Filter" is the same as using "Filter" on each sequence seperately, and then
```
Comment (davidcok) [inline src/Collections/Sequences/Seq.dfy:664]:
```suggestion
     and then using "Filter" is the same as using "Filter" on each sequence separately, and then 
```

**Review by davidcok — APPROVED** [review]

**Review by davidcok — APPROVED** [review]

**Review by MikaelMayer — APPROVED** [review]
